US04230707
H. 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid
A suspension of ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate (0.25 g., 0.001 mol) in 2 N hydrochloric acid is refluxed for 2.5 hours. The reaction mixture is cooled in an ice-bath. The product is filtered off and recrystallized from dimethylformamide to give yellow crystals (0.14 g.), mp 311°-312° C.

reactant | ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate | 0.001 mol, 0.25 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)OCC)CSC2 | C13H12N2O3S
solvent | hydrochloric acid | 2 N | Cl | ClH
product | 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)CSC2 | C11H8N2O3S
